US08383632B2
Part B: Preparation of Cetirizine Granulation
As indicated in Table 1, Cetirizine Dihydrochloride, Beta-cyclodextrin, Sodium Succinate, and Corn Starch are charged into a Fluid Bed Granulator. Approximately 3000 g of Purified Water is then sprayed into the bed at approximately 75-125 g/minute and an inlet air temperature of approximately 55° C., using an atomization air pressure of 2 bar. Approximately 5680 g of the solution prepared in Step A is then sprayed onto the granulation at approximately 75 to 125 g/minute, using an inlet air temperature of approximately 55° C., using an atomization air pressure of 2 bar. Following spraying, the granulation is dried to a product temperature endpoint of approximately 30° C., or a Loss on Drying Analysis (LOD) of approximately 7.5%.

reactant | Cetirizine Dihydrochloride | C=1C=CC(=CC1)C(C=2C=CC(=CC2)Cl)N3CCN(CC3)CCOCC(=O)O.Cl.Cl
reactant | Beta-cyclodextrin | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | Sodium Succinate | C(CCC(=O)[O-])(=O)[O-].[Na+].[Na+]
solvent | Water | 3000 g | O | H2O
product | Cetirizine | C=1C=CC(=CC1)C(C=2C=CC(=CC2)Cl)N3CCN(CC3)CCOCC(=O)O | C21H25ClN2O3
